US05736487
33(a) 2-Bromomethyl-5-fluorobenzothiazole
127 mg of dibenzoyl peroxide were added to a solution of 8.79 g of 2-methyl-5-fluorobenzothiazole and 20.6 g of N-bromosuccinimide in 88 ml of carbon tetrachloride at room temperature and the resulting mixture was stirred under reflux for 6 hours. At the end of this time, the reaction mixture was filtered and the resulting filtrate was concentrated by evaporation under reduced pressure to give a crude crystalline solid which was purified by column chromatography through silica gel using a 10:1 by volume mixture of hexane and ethyl acetate to give 850 mg (yield 7%) of the title compound as a solid.

reactant | dibenzoyl peroxide | 127 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-methyl-5-fluorobenzothiazole | 8.79 g | CC=1SC2=C(N1)C=C(C=C2)F | C8H6FNS
reactant | N-bromosuccinimide | 20.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 88 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-5-fluorobenzothiazole | 850 mg, yield 7% | BrCC=1SC2=C(N1)C=C(C=C2)F | C8H5BrFNS
